US07981896B2
N-(2-Bromobenzyl)-N-(4-methoxyphenyl)hydrazine.
To a suspension of 2-bromobenzyl bromide (500 mg, 2.00 mmol) and 4-methoxyphenylhydrazine hydrochloride (348 mg, 2.00 mmol) in N,N-dimethylformamide (8 mL) was added potassium carbonate (1.38 g, 10.0 mmol). The reaction mixture was heated at 90° C. for 4 hours. The reaction was partitioned between water and methylene chloride. The methylene chloride was dried (MgSO4), concentrated and purified by SiO2 chromatography with 10-50% ethyl acetate/hexanes to give 298 mg of the title compound. LC-MS (C14H18BrN2O calculated 306) m/z 307 (M+H).

reactant | 2-bromobenzyl bromide | 2.00 mmol, 500 mg | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | 4-methoxyphenylhydrazine hydrochloride | 2.00 mmol, 348 mg | Cl.COC1=CC=C(C=C1)NN
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N-(2-Bromobenzyl)-N-(4-methoxyphenyl)hydrazine | 298 mg | BrC1=C(CN(N)C2=CC=C(C=C2)OC)C=CC=C1 | C14H15BrN2O
